US07465795B2
4-amino-8-(2,5-dimethoxyphenyl)-N-propyl-cinnoline-3-carboxamide
Using method B, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (13.0 g, 42.1 mmol), 2,5-dimethoxyphenyl boronic acid (15.4 g, 84.6 mmol) and bis(triphenylphosphine)palladium(II) dichloride (886 mg, 1.3 mmol) were reacted to afford the title compound (13.51 g, 87.7% yield) as an off-white needle. 1H NMR (300 MHz, CDCl3) δ 8.59 (br, 1H), 7.89 (dd, J=7.8 Hz, J′=1.9 Hz, 1H), 7.65-7.77 (m, 2H), 6.85-7.20 (m, 3H), 3.79 (s, 3H), 3.64 (s, 3H), 3.35-3.55 (m, overlapped with H2O), 1.64 (m, J=7.3 Hz, 2H), 0.99 (t, J=7.4 Hz, 3H) MS APCI, m/z=367 (M+H) HPLC 1.72 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 42.1 mmol, 13.0 g | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2,5-dimethoxyphenyl boronic acid | 84.6 mmol, 15.4 g | COC1=C(C=C(C=C1)OC)B(O)O | C8H11BO4
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.3 mmol, 886 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-amino-8-(2,5-dimethoxyphenyl)-N-propyl-cinnoline-3-carboxamide | 13.51 g, 87.7% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC(=C1)OC)OC)C(=O)NCCC | C20H22N4O3
